US06620838B1
D. 3-(2-Chloro-4-trifluoromethylphenyl)-7-hydroxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one
3-(2-Chloro-4-trifluoromethylphenyl)-7-methoxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one (330 mg, 0.59 mmol) was dissolved in AcOH (2.4 mL)-48% aq HBr (2.4 mL). The mixture was stirred at 130° C. for 15 h. After cooling the mixture to r.t., it was poured onto EtOAc/aq NaHCO3. 1M aq NaOH was then added to bring the pH to 8. The layers were separated and the aqueous layer was back-extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (MgSO4) and the solvent was removed in vacuo. The residue was purified using flash chromatography (silica gel, 5:1 CH2Cl2-MeOH) to provide the title compound as a yellow foam showing: IR (KBr) v=3670-2140, 1709, 1611, 1569, 1511, 1367, 1323, 1247, 1172, 1133, 1081, 1067, 1044, 1012 cm−1. 1H NMR (400 MHz, CD3OD) δ 7.81 (d, 1H, J=1.5 Hz), 7.61 (dd, 1H, J=1.5, 8.0 Hz), 7.56 (d, 1H, J=8.8 Hz), 7.48 (d, 1H, J=8.0 Hz), 6.93 (d, 2H, J=8.5 Hz), 6.79 (d, 2H), J=8.5 Hz), 6.76 (d, 1H, J=2.5 Hz), 6.73 (dd, 1H, J=2.5, 8.8 Hz), 4.09 (t, 2H, J=5.5 Hz), 4.05 (d, 1H, J=15.5 Hz), 3.80 (d, 1H, J=15.5 Hz), 3.04 (t, 2H, J=5.5 Hz), 2.86-2.78 (m, 4H), 1.92-1.82 (m, 4H). HRMS (ESI) calcd for C29H25ClF3NO4 (M+H)+: 544.1502; found 544.1504.

reactant | 3-(2-Chloro-4-trifluoromethylphenyl)-7-methoxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one | 0.59 mmol, 330 mg | ClC1=C(C=CC(=C1)C(F)(F)F)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)OCCN1CCCC1)OC)=O | C30H27ClF3NO4
reactant | NaOH | 1M | [OH-].[Na+]
solvent | AcOH | 2.4 mL | CC(=O)O | C2H4O2
product | 3-(2-Chloro-4-trifluoromethylphenyl)-7-hydroxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one | ClC1=C(C=CC(=C1)C(F)(F)F)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)OCCN1CCCC1)O)=O | C29H25ClF3NO4
